* File: DFFnand.pex.spi.pex
* Created: Fri Nov 15 20:54:07 2024
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFFNAND%VDD 29 88 89 90 95 100 105 110 115 120 125 130 135 140 145
+ 150 155 160 165 170 175
c0 238 0 0.0868551f
c1 184 0 0.067921f
c2 178 0 0.301657f
c3 177 0 0.00262531f
c4 173 0 0.247407f
c5 168 0 0.253585f
c6 163 0 0.301212f
c7 152 0 0.0421391f
c8 148 0 0.250912f
c9 143 0 0.245187f
c10 138 0 0.276048f
c11 133 0 0.259209f
c12 128 0 0.243909f
c13 123 0 0.263102f
c14 120 0 0.00387282f
c15 118 0 0.301044f
c16 113 0 0.253683f
c17 108 0 0.250889f
c18 103 0 0.254592f
c19 102 0 0.0532106f
c20 98 0 0.2496f
c21 97 0 0.00261976f
c22 93 0 0.248919f
c23 89 0 3.62917e-19
c24 86 0 0.0313277f
c25 85 0 0.0334176f
c26 83 0 0.025526f
c27 81 0 0.17025f
c28 80 0 1.16396f
c29 75 0 0.290283f
c30 74 0 0.0321709f
c31 73 0 0.25518f
c32 71 0 0.0659367f
c33 70 0 0.0992053f
c34 67 0 0.104812f
c35 66 0 0.0100996f
c36 63 0 0.0159549f
c37 62 0 0.145694f
c38 59 0 0.0242844f
c39 58 0 0.12861f
c40 56 0 0.0162445f
c41 53 0 0.0209361f
c42 50 0 0.0207107f
c43 49 0 0.117687f
c44 47 0 0.0159563f
c45 46 0 0.0694104f
c46 44 0 0.0322803f
c47 41 0 0.0159549f
c48 40 0 0.145085f
c49 37 0 0.00913671f
c50 36 0 0.0944782f
c51 33 0 0.0761472f
c52 29 0 0.0262134f
c53 24 0 0.0278904f
c54 22 0 0.0164487f
c55 18 0 0.0856649f
c56 15 0 0.0903428f
c57 13 0 0.160949f
c58 11 0 0.146808f
c59 9 0 0.0963251f
c60 6 0 0.0464556f
r61 177 178 5.44423
r62 175 177 1.24541
r63 172 173 5.44423
r64 170 172 1.24541
r65 167 168 5.44423
r66 165 167 1.23568
r67 162 163 5.44423
r68 160 162 1.23568
r69 157 158 5.44423
r70 155 157 1.24541
r71 152 153 5.44423
r72 150 152 1.23568
r73 147 148 5.44423
r74 145 147 1.24541
r75 142 143 5.44423
r76 140 142 1.23568
r77 137 138 5.44423
r78 135 137 1.23568
r79 132 133 5.44423
r80 130 132 1.24541
r81 127 128 5.44423
r82 125 127 1.24541
r83 122 123 5.44423
r84 120 122 1.23568
r85 117 118 5.44423
r86 115 117 1.23568
r87 112 113 5.44423
r88 110 112 1.24541
r89 107 108 5.44423
r90 105 107 1.23568
r91 102 103 5.44423
r92 100 102 1.24541
r93 97 98 5.44423
r94 95 97 1.23568
r95 92 93 5.44423
r96 90 92 1.23568
r97 89 238 5.44423
r98 89 232 5.44423
r99 89 212 5.44423
r100 89 208 5.44423
r101 89 188 5.44423
r102 89 184 5.44423
r103 88 224 5.44423
r104 88 220 8.16635
r105 88 200 5.44423
r106 88 196 8.16635
r107 85 86 4
r108 83 85 0.100404
r109 80 81 2.66667
r110 78 83 0.0363397
r111 78 80 1.57603
r112 76 238 0.0698511
r113 75 158 0.227316
r114 75 76 0.0485368
r115 73 153 0.225474
r116 73 74 0.0121527
r117 72 238 0.0783404
r118 72 74 0.0247498
r119 70 232 0.0698511
r120 70 71 0.00563887
r121 69 178 0.226395
r122 69 71 0.0322039
r123 68 173 0.222158
r124 67 224 0.0780426
r125 67 68 0.0327699
r126 65 232 0.0783404
r127 65 66 0.0247498
r128 64 168 0.224553
r129 64 66 0.0121527
r130 62 220 0.203149
r131 62 63 0.0247498
r132 61 224 0.0701489
r133 61 63 0.0247498
r134 60 163 0.224
r135 60 63 0.0121527
r136 58 212 0.0780426
r137 58 59 0.0247498
r138 57 148 0.224553
r139 57 59 0.0121527
r140 55 220 0.0619574
r141 55 56 0.0247498
r142 54 143 0.208342
r143 54 56 0.0121527
r144 52 212 0.0701489
r145 52 53 0.0247498
r146 51 138 0.226395
r147 51 53 0.0121527
r148 49 208 0.0698511
r149 49 50 0.0247498
r150 48 133 0.226395
r151 48 50 0.0121527
r152 46 200 0.0780426
r153 46 47 0.0247498
r154 45 128 0.222158
r155 45 47 0.0121527
r156 43 208 0.0783404
r157 43 44 0.0247498
r158 42 123 0.224553
r159 42 44 0.0121527
r160 40 196 0.203149
r161 40 41 0.0247498
r162 39 200 0.0701489
r163 39 41 0.0247498
r164 38 118 0.224
r165 38 41 0.0121527
r166 36 188 0.0780426
r167 36 37 0.0247498
r168 35 113 0.224553
r169 35 37 0.0121527
r170 33 86 4
r171 31 196 0.0619574
r172 31 33 0.0247498
r173 30 108 0.208342
r174 30 33 0.0121527
r175 27 188 0.0701489
r176 27 29 0.00563887
r177 26 93 0.226395
r178 26 29 0.0322039
r179 25 184 0.0698511
r180 24 103 0.226763
r181 24 25 0.049054
r182 22 81 2.66667
r183 20 98 0.224921
r184 20 22 0.0121527
r185 19 184 0.0783404
r186 19 22 0.0247498
r187 18 74 0.0247498
r188 17 71 0.0322039
r189 17 18 0.134043
r190 16 59 0.0247498
r191 15 66 0.0247498
r192 15 16 0.16383
r193 14 50 0.0247498
r194 13 53 0.0247498
r195 13 14 0.16234
r196 12 47 0.0247498
r197 11 56 0.0247498
r198 11 12 0.265851
r199 10 37 0.0247498
r200 9 44 0.0247498
r201 9 10 0.16383
r202 6 22 0.0247498
r203 5 29 0.0322039
r204 5 6 0.134043
.ends

.subckt PM_DFFNAND%NET47 27 28 32 39 43 47 51
c0 83 0 0.619281f
c1 68 0 0.522967f
c2 63 0 0.159993f
c3 62 0 0.108117f
c4 57 0 0.126815f
c5 53 0 0.110744f
c6 51 0 0.149535f
c7 47 0 0.21905f
c8 43 0 0.135461f
c9 37 0 0.191905f
c10 35 0 0.27549f
c11 34 0 0.00874834f
c12 25 0 0.049584f
c13 24 0 0.134703f
c14 22 0 0.0743958f
c15 21 0 0.0291005f
c16 18 0 0.0270694f
c17 13 0 1.37343f
r18 68 87 0.240459
r19 63 83 8
r20 62 63 13.2552
r21 59 62 5.95532
r22 56 57 13.2552
r23 53 56 6.14681
r24 49 59 4.73303
r25 49 51 36.5
r26 45 59 4.73303
r27 45 47 57.75
r28 41 53 4.73303
r29 41 43 37.25
r30 37 53 4.73303
r31 37 39 57
r32 35 87 0.107077
r33 34 35 8.16635
r34 32 34 2.304
r35 31 73 0.120135
r36 31 68 0.10973
r37 30 31 5.44423
r38 28 30 1.24541
r39 27 30 1.23568
r40 25 57 8
r41 24 25 8
r42 22 24 0.210903
r43 21 73 8
r44 20 21 8
r45 18 68 8
r46 17 20 0.1755
r47 17 18 8
r48 14 83 0.502667
r49 13 17 0.693333
r50 13 14 8
r51 11 22 0.0365321
r52 11 20 0.476089
.ends

.subckt PM_DFFNAND%NET9 29 34 41 45 49 53 57 61
c0 105 0 0.0966437f
c1 89 0 0.274396f
c2 79 0 0.105434f
c3 77 0 0.261992f
c4 73 0 0.115923f
c5 71 0 0.257144f
c6 67 0 0.136341f
c7 66 0 0.115359f
c8 61 0 0.0972599f
c9 57 0 0.164137f
c10 53 0 0.142807f
c11 49 0 0.223063f
c12 45 0 0.221588f
c13 41 0 0.151522f
c14 37 0 0.0975756f
c15 27 0 0.0815928f
c16 21 0 0.0892047f
c17 17 0 0.0387768f
c18 16 0 0.737015f
c19 13 0 0.081347f
c20 5 0 0.571844f
r21 105 106 8
r22 94 95 8
r23 88 89 8
r24 77 106 0.169043
r25 76 79 6.10851
r26 76 77 13.2552
r27 70 73 6.10851
r28 70 71 13.2552
r29 67 82 8
r30 66 67 13.2552
r31 63 66 5.95532
r32 59 79 4.73303
r33 59 61 24
r34 55 79 4.73303
r35 55 57 57.75
r36 51 73 4.73303
r37 51 53 36.5
r38 47 73 4.73303
r39 47 49 57.75
r40 43 63 4.73303
r41 43 45 56.5
r42 39 63 4.73303
r43 39 41 37.75
r44 37 100 8
r45 36 37 16.3327
r46 34 36 4.608
r47 32 95 0.0967105
r48 32 89 0.105921
r49 31 32 5.44423
r50 29 31 1.24541
r51 27 82 0.0637
r52 26 27 8
r53 24 100 0.0657222
r54 23 26 0.464389
r55 23 24 8
r56 21 94 0.05915
r57 20 23 0.2535
r58 20 21 8
r59 17 88 0.05915
r60 16 20 0.158889
r61 16 17 8
r62 12 71 0.194511
r63 12 13 0.00338264
r64 11 37 0.106105
r65 11 13 0.0352418
r66 10 95 0.130605
r67 10 13 0.0352418
r68 6 105 0.07592
r69 5 24 0.461356
r70 5 6 0.0364484
.ends

.subckt PM_DFFNAND%NET48 26 27 31 38 42
c0 58 0 0.532019f
c1 48 0 0.110123f
c2 46 0 0.137319f
c3 42 0 0.221832f
c4 38 0 0.146429f
c5 34 0 0.0764052f
c6 33 0 0.00289173f
c7 25 0 0.0697217f
c8 21 0 0.0352912f
c9 20 0 0.602491f
c10 16 0 0.0693544f
c11 13 0 0.212891f
c12 9 0 0.195932f
r13 45 48 5.91702
r14 45 46 13.2552
r15 40 48 4.73303
r16 40 42 56.5
r17 36 48 4.73303
r18 36 38 37.75
r19 33 34 8.16635
r20 31 33 2.304
r21 30 63 0.10973
r22 30 58 0.120135
r23 29 30 5.44423
r24 27 29 1.24541
r25 26 29 1.23568
r26 25 63 8
r27 24 25 8
r28 21 58 8
r29 20 24 0.1755
r30 20 21 8
r31 18 24 0.660689
r32 16 46 8
r33 15 16 8
r34 13 18 0.0365321
r35 13 15 0.0541456
r36 10 34 0.0508421
r37 9 10 0.00915673
r38 7 63 0.242919
r39 6 9 0.111364
r40 6 7 0.0100603
.ends

.subckt PM_DFFNAND%NET41 26 27 31 38 42
c0 69 0 0.207482f
c1 58 0 0.541135f
c2 46 0 0.139138f
c3 45 0 0.110474f
c4 42 0 0.146551f
c5 36 0 0.204292f
c6 34 0 0.0785726f
c7 24 0 0.0469153f
c8 23 0 0.107761f
c9 17 0 0.05211f
c10 16 0 0.144782f
c11 12 0 0.0890699f
c12 11 0 0.204797f
r13 58 69 0.240459
r14 45 48 5.91702
r15 45 46 13.2552
r16 40 48 4.73303
r17 40 42 37.25
r18 36 48 4.73303
r19 36 38 57
r20 34 69 0.106769
r21 33 34 8.16635
r22 31 33 2.286
r23 30 63 0.120135
r24 30 58 0.10973
r25 29 30 5.44423
r26 27 29 1.24541
r27 26 29 1.23568
r28 24 63 8
r29 23 24 8
r30 21 23 0.000126214
r31 17 58 8
r32 16 17 8
r33 14 21 0.00813405
r34 14 16 0.138089
r35 12 46 8
r36 11 12 8
r37 9 21 0.120534
r38 9 11 0.285856
.ends

.subckt PM_DFFNAND%VSS 12 39 71 76 81 86 91 96 101 106 111 116
c0 119 0 0.152781f
c1 114 0 0.166915f
c2 109 0 0.164601f
c3 106 0 0.0122234f
c4 104 0 0.150964f
c5 103 0 0.0239434f
c6 99 0 0.147769f
c7 94 0 0.147769f
c8 84 0 0.185097f
c9 81 0 0.00420029f
c10 79 0 0.146872f
c11 76 0 0.0085614f
c12 74 0 0.15963f
c13 71 0 4.70176e-19
c14 54 0 0.244868f
c15 53 0 2.6823e-19
c16 39 0 7.31097e-19
c17 37 0 0.0223219f
c18 33 0 0.0379655f
c19 32 0 0.88884f
c20 28 0 0.156425f
c21 27 0 0.0420759f
c22 24 0 0.0447993f
c23 23 0 0.153178f
c24 20 0 0.0360148f
c25 19 0 0.101278f
c26 17 0 0.0420759f
c27 14 0 0.060025f
c28 13 0 0.190483f
c29 7 0 0.0851256f
c30 6 0 0.0576801f
c31 5 0 0.193596f
r32 144 164 0.0113862
r33 141 162 0.0113862
r34 132 161 0.0113862
r35 129 158 0.0113862
r36 118 119 8.16635
r37 116 118 2.304
r38 113 114 8.16635
r39 111 113 2.286
r40 109 144 0.193237
r41 108 109 16.3327
r42 106 108 4.572
r43 103 104 8.16635
r44 101 103 2.304
r45 99 141 0.194526
r46 98 99 8.16635
r47 96 98 2.286
r48 93 94 8.16635
r49 91 93 2.304
r50 88 89 8.16635
r51 86 88 2.304
r52 83 84 8.16635
r53 81 83 2.286
r54 79 132 0.176658
r55 78 79 16.3327
r56 76 78 4.572
r57 74 129 0.194526
r58 73 74 8.16635
r59 71 73 2.286
r60 61 164 0.00878723
r61 61 162 0.0939787
r62 54 127 0.0588703
r63 53 54 2.72212
r64 42 161 0.00878723
r65 42 158 0.0939787
r66 39 69 5.44423
r67 39 61 5.44423
r68 39 53 4.125
r69 39 50 5.44423
r70 39 42 5.44423
r71 37 127 8
r72 36 37 8
r73 32 36 0.9568
r74 32 33 8
r75 29 119 0.194526
r76 28 69 0.0609149
r77 28 29 0.039684
r78 26 69 0.0865319
r79 26 27 0.0247498
r80 25 114 0.101132
r81 25 27 0.0121527
r82 23 89 0.100211
r83 23 24 0.0674287
r84 22 104 0.197289
r85 22 24 0.0674287
r86 21 127 0.00228452
r87 21 24 0.0128726
r88 19 50 0.0609149
r89 19 20 0.0247498
r90 18 94 0.194526
r91 18 20 0.0121527
r92 16 50 0.0865319
r93 16 17 0.0247498
r94 15 84 0.101132
r95 15 17 0.0121527
r96 14 164 0.0282979
r97 13 27 0.0247498
r98 13 14 0.265106
r99 12 33 8
r100 8 20 0.0247498
r101 8 12 0.0857872
r102 7 162 0.0282979
r103 7 12 0.0780426
r104 6 161 0.0282979
r105 5 17 0.0247498
r106 5 6 0.265106
.ends

.subckt PM_DFFNAND%NET22 27 28 32 39 43 47 51
c0 83 0 0.514042f
c1 68 0 0.522897f
c2 63 0 0.130892f
c3 62 0 0.106571f
c4 57 0 0.122662f
c5 53 0 0.110488f
c6 51 0 0.146897f
c7 47 0 0.212723f
c8 43 0 0.211083f
c9 37 0 0.130613f
c10 35 0 0.27449f
c11 34 0 0.00874834f
c12 25 0 0.0468473f
c13 24 0 0.0846161f
c14 22 0 0.0500575f
c15 21 0 0.0517342f
c16 18 0 0.0497374f
c17 13 0 1.08288f
r18 68 87 0.240459
r19 63 83 8
r20 62 63 13.2552
r21 59 62 5.95532
r22 56 57 13.2552
r23 53 56 6.14681
r24 49 59 4.73303
r25 49 51 36.5
r26 45 59 4.73303
r27 45 47 57.75
r28 41 53 4.73303
r29 41 43 57
r30 37 53 4.73303
r31 37 39 37.25
r32 35 87 0.107077
r33 34 35 8.16635
r34 32 34 2.304
r35 31 73 0.120135
r36 31 68 0.10973
r37 30 31 5.44423
r38 28 30 1.24541
r39 27 30 1.23568
r40 25 57 8
r41 24 25 8
r42 22 24 0.0922621
r43 21 73 8
r44 20 21 8
r45 18 68 8
r46 17 20 0.1755
r47 17 18 8
r48 14 83 0.4524
r49 13 17 0.693333
r50 13 14 8
r51 11 22 0.0319268
r52 11 20 0.476089
.ends

.subckt PM_DFFNAND%NET13 22 27 34 38 42 46
c0 68 0 0.277259f
c1 58 0 0.111f
c2 56 0 0.242113f
c3 52 0 0.136673f
c4 51 0 0.115359f
c5 46 0 0.150625f
c6 42 0 0.226379f
c7 38 0 0.221588f
c8 34 0 0.151347f
c9 30 0 0.103277f
c10 20 0 0.114172f
c11 17 0 0.0919008f
c12 13 0 0.038679f
c13 12 0 0.721135f
c14 9 0 0.0714121f
r15 73 74 8
r16 67 68 8
r17 55 58 6.10851
r18 55 56 13.2552
r19 52 61 8
r20 51 52 13.2552
r21 48 51 5.95532
r22 44 58 4.73303
r23 44 46 36.5
r24 40 58 4.73303
r25 40 42 57.75
r26 36 48 4.73303
r27 36 38 56.5
r28 32 48 4.73303
r29 32 34 37.75
r30 29 30 16.3327
r31 27 29 4.608
r32 25 74 0.0967105
r33 25 68 0.105921
r34 24 25 5.44423
r35 22 24 1.24541
r36 20 61 0.0637
r37 19 20 8
r38 17 73 0.05915
r39 16 19 0.717889
r40 16 17 8
r41 13 67 0.05915
r42 12 16 0.158889
r43 12 13 8
r44 8 56 0.194511
r45 8 9 0.00338264
r46 7 30 0.0895263
r47 7 9 0.0352418
r48 6 74 0.130605
r49 6 9 0.0352418
.ends

.subckt PM_DFFNAND%NET23 26 27 31 38 42
c0 58 0 0.538851f
c1 48 0 0.110123f
c2 46 0 0.137319f
c3 42 0 0.219514f
c4 38 0 0.146429f
c5 34 0 0.0561568f
c6 25 0 0.0728233f
c7 21 0 0.0352912f
c8 20 0 0.489555f
c9 16 0 0.0674684f
c10 13 0 0.180622f
c11 9 0 0.170768f
r12 45 48 5.91702
r13 45 46 13.2552
r14 40 48 4.73303
r15 40 42 56.5
r16 36 48 4.73303
r17 36 38 37.75
r18 33 34 8.16635
r19 31 33 2.304
r20 30 63 0.10973
r21 30 58 0.120135
r22 29 30 5.44423
r23 27 29 1.24541
r24 26 29 1.23568
r25 25 63 8
r26 24 25 8
r27 21 58 8
r28 20 24 0.1755
r29 20 21 8
r30 18 24 0.660689
r31 16 46 8
r32 15 16 8
r33 13 18 0.0365321
r34 13 15 0.0541456
r35 10 34 0.0508421
r36 9 10 0.00915673
r37 7 63 0.242919
r38 6 9 0.111364
r39 6 7 0.0100603
.ends

.subckt PM_DFFNAND%QBAR 22 23 27 34 38 64
c0 66 0 0.206152f
c1 64 0 0.0785514f
c2 54 0 0.536309f
c3 42 0 0.138672f
c4 41 0 0.110474f
c5 38 0 0.207159f
c6 32 0 0.141587f
c7 21 0 0.0674813f
c8 17 0 0.0652178f
c9 16 0 0.245079f
c10 12 0 0.0530116f
c11 9 0 0.192589f
r12 64 66 0.106769
r13 54 66 0.240459
r14 41 44 5.91702
r15 41 42 13.2552
r16 36 44 4.73303
r17 36 38 57
r18 32 44 4.73303
r19 32 34 37.25
r20 29 64 8.16635
r21 27 29 2.286
r22 26 59 0.120135
r23 26 54 0.10973
r24 25 26 5.44423
r25 23 25 1.24541
r26 22 25 1.23568
r27 21 59 8
r28 20 21 8
r29 17 54 8
r30 16 20 0.1755
r31 16 17 8
r32 14 20 0.285422
r33 12 42 8
r34 11 12 8
r35 9 14 0.0365321
r36 9 11 0.21065
.ends

.subckt PM_DFFNAND%QM 15 16 20 27 31 35 39 65
c0 58 0 0.228247f
c1 51 0 0.112623f
c2 49 0 0.302087f
c3 44 0 0.112623f
c4 39 0 0.211197f
c5 35 0 0.143699f
c6 31 0 0.205747f
c7 27 0 0.146642f
c8 23 0 0.0585234f
c9 18 0 0.00591211f
c10 14 0 0.665419f
c11 13 0 0.0705276f
c12 12 0 0.0525826f
c13 8 0 0.189926f
c14 5 0 0.448634f
r15 58 59 2.66667
r16 49 59 0.113191
r17 48 51 6.10851
r18 48 49 13.2552
r19 45 59 0.113191
r20 44 45 13.2552
r21 41 44 6.14681
r22 37 51 4.73303
r23 37 39 56.5
r24 33 51 4.73303
r25 33 35 37.75
r26 29 41 4.73303
r27 29 31 56.5
r28 25 41 4.73303
r29 25 27 37.75
r30 23 54 8
r31 22 23 8.16635
r32 20 22 2.286
r33 19 65 0.109541
r34 18 19 5.44423
r35 16 18 1.23568
r36 15 18 1.24541
r37 14 65 0.24027
r38 13 23 0.0508421
r39 12 14 0.0396535
r40 11 13 0.0395228
r41 11 12 0.05
r42 8 54 0.11947
r43 5 8 0.0363174
r44 4 58 0.00715299
r45 4 5 0.48035
.ends

.subckt PM_DFFNAND%Q 12 13 17 24 28 49
c0 49 0 0.534089f
c1 44 0 0.0893319f
c2 34 0 0.126807f
c3 33 0 0.114677f
c4 28 0 0.209846f
c5 24 0 0.147803f
c6 20 0 0.0791927f
c7 19 0 0.00150197f
c8 11 0 0.0921009f
c9 10 0 0.0547761f
c10 9 0 0.074691f
c11 4 0 0.136911f
c12 3 0 0.381987f
r13 41 44 0.04472
r14 37 49 4
r15 34 41 8
r16 33 34 13.2552
r17 30 33 6.14681
r18 26 30 4.73303
r19 26 28 56.5
r20 22 30 4.73303
r21 22 24 37.75
r22 19 20 8.16635
r23 17 19 2.286
r24 16 49 0.116162
r25 15 16 5.44423
r26 13 15 1.23568
r27 12 15 1.24541
r28 11 16 0.350189
r29 10 11 0.0396535
r30 9 20 0.0180852
r31 9 10 0.05
r32 4 37 0.08437
r33 3 4 0.0363174
r34 2 44 0.00381737
r35 2 3 0.5694
.ends

.subckt PM_DFFNAND%D 4 8 18
c0 18 0 0.154533f
c1 14 0 0.117939f
c2 8 0 0.213939f
c3 4 0 0.14672f
r4 11 14 6.10851
r5 11 18 13.2552
r6 6 14 4.73303
r7 6 8 56.5
r8 2 14 4.73303
r9 2 4 37.75
.ends

.subckt PM_DFFNAND%CLK 4 8 18
c0 18 0 0.162973f
c1 14 0 0.113488f
c2 8 0 0.109815f
c3 4 0 0.15561f
r4 11 14 6.10851
r5 11 18 13.2552
r6 6 14 4.73303
r7 6 8 28.5
r8 2 14 4.73303
r9 2 4 57.75
.ends

.subckt PM_DFFNAND%XI0/NET14 1 2
c0 1 0 0.0348414f
r1 1 2 4.59
.ends

.subckt PM_DFFNAND%XI2/NET14 1 2
c0 2 0 0.0229779f
r1 1 2 4.59
.ends

.subckt PM_DFFNAND%XI1/NET14 1 2
c0 1 0 0.0437138f
r1 1 2 4.59
.ends

.subckt PM_DFFNAND%XI3/NET14 1 2
c0 1 0 0.0384663f
r1 1 2 4.59
.ends

.subckt PM_DFFNAND%XI5/NET14 1 2
c0 2 0 0.0301637f
r1 1 2 4.59
.ends

.subckt PM_DFFNAND%XI7/NET14 1 2
c0 1 0 0.0369097f
r1 1 2 4.59
.ends

.subckt PM_DFFNAND%XI6/NET14 1 2
c0 1 0 0.0510806f
r1 1 2 4.59
.ends

.subckt PM_DFFNAND%XI4/NET14 1 2
c0 1 0 0.0587918f
r1 1 2 4.59
.ends

